US08957205B2
N-[[1-[[[4-(4-Morpholinylmethyl)phenyl]carbonyl]amino]cyclohexyl]carbonyl]-L-methioninol
43 mg (0.32 mmol) of L-methioninol was added to a solution of 100 mg (0.29 mmol) of 2-[4-(4-morpholinylmethyl)phenyl]-3-oxa-1-azaspiro[4.5]dec-1-en-4-one in 3 ml of N,N-dimethylformamide, and the mixture was stirred overnight. Water was slowly added thereto and the precipitated crystal was collected by filtration. The obtained crystal was dried under reduced pressure to give 65 mg (49%) of the title compound.

reactant | L-methioninol | 0.32 mmol, 43 mg | N[C@@H](CCSC)CO | C5H13NOS
reactant | 2-[4-(4-morpholinylmethyl)phenyl]-3-oxa-1-azaspiro[4.5]dec-1-en-4-one | 0.29 mmol, 100 mg | N1(CCOCC1)CC1=CC=C(C=C1)C1=NC2(C(O1)=O)CCCCC2 | C19H24N2O3
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | N-[[1-[[[4-(4-Morpholinylmethyl)phenyl]carbonyl]amino]cyclohexyl]carbonyl]-L-methioninol | 65 mg, 49% | N1(CCOCC1)CC1=CC=C(C=C1)C(=O)NC1(CCCCC1)C(=O)N[C@@H](CCSC)CO | C24H37N3O4S
